US09107916B2
B. 2-(3-Benzyl-5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile
The title compound was prepared in 53% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and ethyl 3-oxo-4-phenylbutanoate according to the procedure for the preparation of Example 3, part A. [M+H] Calc'd for C16H12N4O, 277. Found, 277.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | ethyl 3-oxo-4-phenylbutanoate | O=C(CC(=O)OCC)CC1=CC=CC=C1 | C12H14O3
product | 2-(3-Benzyl-5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 53% yield | C(C1=CC=CC=C1)C1=NN(C(=C1)O)C1=NC=CC(=C1)C#N | C16H12N4O
